US07612075B2
C. 3-Chloro-1-(toluene-4-sulfonyl)-1H-Indole-6-carboxylic acid methyl ester.
To a solution of 3-chloro-1H-indole-6-carboxylic acid methyl ester (3.00 g, 17.1 mmol) in 40 mL of THF at −78° C. is added LDA(8.55 mL of a 2.0M solution in hexanes, 17.1 mmol) dropwise. The solution is stirred at −78° C. for 30 minutes p-Toluenesulfonyl chloride (3.43 g, 18.0 mmol) in 15 mL of THF is added dropwise and the resulting solution is stirred at −78° C. for 3 hours. The mixture is warmed to 0° C., quenched with saturated NaHCO3 solution and diluted with H2O and Et2O. The layers are separated. The organic phase is washed with saturated NaHCO3 solution, H2O and saturated NaCl solution, then dried over MgSO4, filtered and concentrated. The crude residue is purified via flash column chromatography eluting with a gradient of 10% EtOAc/hexanes to 30% EtOAc/hexanes to provide the title compound (3.64 g, 10.0 mmol). 1H NMR (CDCl3, 300 MHz) δ8.70 (s, 1H), 8.01 (dd, 1H), 7.80 (d, 2H), 7.70 (s, 1H), 7.60 (d, 1H), 7.38 (m, 2H), 4.00 (s, 3H), 2.49 (s, 3H).

reactant | 3-chloro-1H-indole-6-carboxylic acid methyl ester | 17.1 mmol, 3.00 g | COC(=O)C1=CC=C2C(=CNC2=C1)Cl | C10H8ClNO2
reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | p-Toluenesulfonyl chloride | 18.0 mmol, 3.43 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 3-Chloro-1-(toluene-4-sulfonyl)-1H-Indole-6-carboxylic acid methyl ester | 10.0 mmol, 3.64 g | COC(=O)C1=CC=C2C(=CN(C2=C1)S(=O)(=O)C1=CC=C(C=C1)C)Cl | C17H14ClNO4S
